US07888510B2
c) 2-{1-[(9-Oxo-9H-fluoren-3-yl-carbamoyl)-methyl]-piperidine-4-yl-amino}benzoic acid methyl ester chlorhidrate
A mixture of 2-(Piperidine-4-yl-amino)-methyl benzoate (1100 mg, 4.70 mmol), 2-Chloro-N-(9-oxo-9H-fluoren-3-yl)-acetamide (1358 mg, 5 mmol) and K2CO3 (1380 mg, 10 mmol) in DMF (40 mL) was stirred at 10° C. for 2 hours and then at room temperature overnight. The reaction mixture was added to 50 mL water and 100 mL ethyl acetate, the organic phase was decanted and washed with water (3×50 mL), dried over sodium sulfate and a 2.8 M hydrogen chloride solution in absolute ethanol (1.80 mL) was added, to precipitate the hydrochloride, which was filtered off and washed with ethyl acetate. 1840 mg of a white solid were obtained. Yield: 77%.

reactant | 2-Chloro-N-(9-oxo-9H-fluoren-3-yl)-acetamide | 5 mmol, 1358 mg | ClCC(=O)NC=1C=CC=2C(C3=CC=CC=C3C2C1)=O | C15H10ClNO2
reactant | K2CO3 | 10 mmol, 1380 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-{1-[(9-Oxo-9H-fluoren-3-yl-carbamoyl)-methyl]-piperidine-4-yl-amino}benzoic acid methyl ester | 1840 mg, Yield: 77% | COC(C1=C(C=CC=C1)NC1CCN(CC1)CC(NC=1C=CC=2C(C3=CC=CC=C3C2C1)=O)=O)=O | C28H27N3O4
